US04110465
Ten milliliters of acetic anhydride were added to a solution of 2-oxo-3-phenyl-7-aminoindole (0.7 g.) in 40 ml. of pyridine. The reaction mixture was stirred at ambient temperature for 18 hours. Ten milliliters of water were then added and the solvent removed in vacuo. The residue was treated with 100 ml. of 1 N aqueous hydrochloric acid. The resulting solids were separated by filtration and the filter cake washed with water. Recrystallization of the filtered material from methanol yielded N-(2-oxo-3-phenyl-7-indolinyl)acetamide formed in the above reaction melting at 258°-62° C.; yield = 490 mg.

reactant | acetic anhydride | Ten milliliters | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-oxo-3-phenyl-7-aminoindole | 0.7 g | O=C1N=C2C(=CC=CC2=C1C1=CC=CC=C1)N | C14H10N2O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | Ten milliliters | O | H2O
product | N-(2-oxo-3-phenyl-7-indolinyl)acetamide | O=C1NC2=C(C=CC=C2C1C1=CC=CC=C1)NC(C)=O | C16H14N2O2
